### PR TITLE
a few `refine` uses eliminated

### PR DESCRIPTION
**Pull request by madvorak**

### CODE REVIEW

File: PFR/entropy_basic.lean [hunk 1]
```diff
@@ -223,7 +223,7 @@ lemma measureEntropy_le_log_card [MeasurableSingletonClass S] (μ : Measure S) :
       rw [Fintype.card_eq_zero]
       simp
     | inr h =>
-      refine log_nonneg ?_
+      apply log_nonneg
```
Comment (YaelDillies) [inline PFR/entropy_basic.lean:226]: This is a regression IMO. It's hard to know what `apply` does and that has unexpected behavior.

File: PFR/neg_xlogx.lean [hunk 2]
```diff
@@ -132,10 +132,8 @@ lemma strictConcaveOn_negIdMulLog : StrictConcaveOn ℝ (Set.Ici (0 : ℝ)) negI
 
 lemma sum_negIdMulLog_le {S : Type*} [Fintype S] {w : S → ℝ} {p : S → ℝ} (h0 : ∀ s, 0 ≤ w s)
     (h1 : ∑ s, w s = 1) (hmem : ∀ s, 0 ≤ p s) :
-    ∑ s, (w s) * negIdMulLog (p s) ≤ negIdMulLog (∑ s, (w s) * (p s)) := by
-  refine ConcaveOn.le_map_sum concaveOn_negIdMulLog ?_ h1 ?_
-  · simp [h0]
-  · simp [hmem]
+    ∑ s, (w s) * negIdMulLog (p s) ≤ negIdMulLog (∑ s, (w s) * (p s)) :=
+  ConcaveOn.le_map_sum concaveOn_negIdMulLog (by simp [h0]) h1 (by simp [hmem])
```
Comment (YaelDillies) [inline PFR/neg_xlogx.lean:136]: This is one of the two changes I agree with.

File: Test/neg_xlogx_old.lean [hunk 3]
```diff
@@ -139,11 +139,9 @@ lemma h_concave : ConcaveOn ℝ (Set.Icc 0 1) h := by
...
     exact (h_deriv hx.1).differentiableAt.differentiableWithinAt
   rw [interior_Icc]
-  refine ((strictMonoOn_log.monotoneOn.mono ?_).neg.add_const (-1)).congr ?_
-  · intro x hx
-    exact hx.1
-  · intro x hx
-    rw [(h_deriv hx.1).deriv]
+  apply ((strictMonoOn_log.monotoneOn.mono (fun x hx => hx.1)).neg.add_const (-1)).congr
+  intro x hx
+  rw [(h_deriv hx.1).deriv]
```
Comment (YaelDillies) [inline Test/neg_xlogx_old.lean:144]: And this one I don't.

**Comment by madvorak** [comment]
This is just a minigolf I did without studying the contents. Feel free to ignore this PR.

**Review by YaelDillies — COMMENTED** [review]
I really doubt we should encourage use of `apply` where `exact` or `refine` does the job. It's less versatile and more prone to weird unification errors and poor performance.

**Comment by madvorak** [comment]
OK, I'll close this PR a open a new one, containing only the two changes which @YaelDillies liked, what about that?

File: PFR/entropy_basic.lean (hunk 1 above)
Comment (madvorak) [reply PFR/entropy_basic.lean:226]: I've been using `apply` this way since the first day I came to Lean and I find it very idiomatic, but I'll follow your advice and stop pushing this.

File: PFR/neg_xlogx.lean (hunk 2 above)
Comment (madvorak) [reply PFR/neg_xlogx.lean:136]: OK.

File: Test/neg_xlogx_old.lean (hunk 3 above)
Comment (madvorak) [reply Test/neg_xlogx_old.lean:144]: Noted.

**Comment by madvorak** [comment]
Probably better keep it here...

**Comment by madvorak** [comment]
@YaelDillies can check it again. This time, only non-controversial changes should be present.

**Comment by YaelDillies** [comment]
Can you fix the conflict?
